US05596009
By the same procedure as reference example 1→reference example 2→example 1 (using diphenylamine instead of dibenzylamine), using methyl [1-(3-hydroxypropyl)-1,2,3,4-tetrahydronaphthalen-5-yl]oxyacetate instead of methyl(1-hydroxymethyl-1,2,3,4-tetrahydronaphthalen-5-yl)oxyacetate, was obtained methyl [1-(2-diphenylaminocarbonylethyl)-1,2,3,4-tetrahydronaphthalen-5-yl]oxyacetate. By the same procedure as example 2, using methyl [1-(2-diphenylaminocarbonylethyl)-1,2,3,4-tetrahydronaphtahalen-5-yl]oxyacetate thus obtained, the title compound having the following physical data was given.

reactant | diphenylamine | C1(=CC=CC=C1)NC1=CC=CC=C1 | C12H11N
reactant | methyl [1-(3-hydroxypropyl)-1,2,3,4-tetrahydronaphthalen-5-yl]oxyacetate | OCCCC1CCCC2=C(C=CC=C12)OCC(=O)OC | C16H22O4
product | methyl [1-(2-diphenylaminocarbonylethyl)-1,2,3,4-tetrahydronaphthalen-5-yl]oxyacetate | C1(=CC=CC=C1)N(C(=O)CCC1CCCC2=C(C=CC=C12)OCC(=O)OC)C1=CC=CC=C1 | C28H29NO4
